* C:\Users\Shanthipriya\Desktop\madeeasy\FOSSEE\eSim\library\SubcircuitLibrary\a_origin\a_origin.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 04/10/25 00:37:08

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U1  /w /x /y /z Net-_U1-Pad5_ PORT		
U2  /w Net-_U2-Pad2_ d_inverter		
U3  /x Net-_U3-Pad2_ d_inverter		
U4  /y Net-_U4-Pad2_ d_inverter		
U5  /z Net-_U5-Pad2_ d_inverter		
X3  /x Net-_U4-Pad2_ /z Net-_X3-Pad4_ 3_and		
X1  /w Net-_U3-Pad2_ Net-_U4-Pad2_ Net-_X1-Pad4_ 3_and		
X2  Net-_U2-Pad2_ /y /z Net-_X2-Pad4_ 3_and		
X4  Net-_U2-Pad2_ Net-_U3-Pad2_ Net-_U5-Pad2_ Net-_X4-Pad4_ 3_and		
X5  Net-_X3-Pad4_ Net-_X1-Pad4_ Net-_X2-Pad4_ Net-_X4-Pad4_ Net-_U1-Pad5_ 4_OR		

.end
