* Subcircuit a_origin
.subckt a_origin /w /x /y /z net-_u1-pad5_ 
* c:\users\shanthipriya\desktop\madeeasy\fossee\esim\library\subcircuitlibrary\a_origin\a_origin.cir
.include 3_and.sub
.include 4_OR.sub
* u2  /w net-_u2-pad2_ d_inverter
* u3  /x net-_u3-pad2_ d_inverter
* u4  /y net-_u4-pad2_ d_inverter
* u5  /z net-_u5-pad2_ d_inverter
x3 /x net-_u4-pad2_ /z net-_x3-pad4_ 3_and
x1 /w net-_u3-pad2_ net-_u4-pad2_ net-_x1-pad4_ 3_and
x2 net-_u2-pad2_ /y /z net-_x2-pad4_ 3_and
x4 net-_u2-pad2_ net-_u3-pad2_ net-_u5-pad2_ net-_x4-pad4_ 3_and
x5 net-_x3-pad4_ net-_x1-pad4_ net-_x2-pad4_ net-_x4-pad4_ net-_u1-pad5_ 4_OR
a1 /w net-_u2-pad2_ u2
a2 /x net-_u3-pad2_ u3
a3 /y net-_u4-pad2_ u4
a4 /z net-_u5-pad2_ u5
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends a_origin