* Subcircuit c_origin
.subckt c_origin /w /x /y /z net-_u1-pad5_ 
* c:\users\shanthipriya\desktop\madeeasy\fossee\esim\library\subcircuitlibrary\c_origin\c_origin.cir
* u2  /w net-_u2-pad2_ d_inverter
* u3  /x net-_u3-pad2_ d_inverter
* u4  /y net-_u4-pad2_ d_inverter
* u5  net-_u3-pad2_ net-_u4-pad2_ net-_u5-pad3_ d_and
* u6  net-_u3-pad2_ /z net-_u6-pad3_ d_and
* u7  net-_u2-pad2_ /x net-_u7-pad3_ d_and
* u8  net-_u5-pad3_ net-_u6-pad3_ net-_u8-pad3_ d_or
* u9  net-_u8-pad3_ net-_u7-pad3_ net-_u1-pad5_ d_or
a1 /w net-_u2-pad2_ u2
a2 /x net-_u3-pad2_ u3
a3 /y net-_u4-pad2_ u4
a4 [net-_u3-pad2_ net-_u4-pad2_ ] net-_u5-pad3_ u5
a5 [net-_u3-pad2_ /z ] net-_u6-pad3_ u6
a6 [net-_u2-pad2_ /x ] net-_u7-pad3_ u7
a7 [net-_u5-pad3_ net-_u6-pad3_ ] net-_u8-pad3_ u8
a8 [net-_u8-pad3_ net-_u7-pad3_ ] net-_u1-pad5_ u9
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u5 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u6 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u7 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u8 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u9 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends c_origin