* Subcircuit e_origin
.subckt e_origin /x /y /z net-_u1-pad4_ 
* c:\users\shanthipriya\desktop\madeeasy\fossee\esim\library\subcircuitlibrary\e_origin\e_origin.cir
* u2  /x net-_u2-pad2_ d_inverter
* u3  /z net-_u3-pad2_ d_inverter
* u4  net-_u2-pad2_ net-_u3-pad2_ net-_u4-pad3_ d_and
* u5  /y net-_u3-pad2_ net-_u5-pad3_ d_and
* u6  net-_u4-pad3_ net-_u5-pad3_ net-_u1-pad4_ d_or
a1 /x net-_u2-pad2_ u2
a2 /z net-_u3-pad2_ u3
a3 [net-_u2-pad2_ net-_u3-pad2_ ] net-_u4-pad3_ u4
a4 [/y net-_u3-pad2_ ] net-_u5-pad3_ u5
a5 [net-_u4-pad3_ net-_u5-pad3_ ] net-_u1-pad4_ u6
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u4 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u5 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u6 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends e_origin